US07053060B2
To a solution of 5-methoxy-2-(4-[2-(methoxymethyloxy)ethyl]benzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.13 g) in methanol (8 mL) was added 2 mol/L aqueous sodium hydroxide solution (0.50 mL), and the mixture was stirred at room temperature for 25 minutes. The solvent was removed under reduced pressure, and the residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=7/1) to give 5-methoxy-2-{4-[2-(methoxymethyloxy)ethyl]benzyl}phenyl β-D-glucopyranoside (0.053 g).

reactant | 5-methoxy-2-(4-[2-(methoxymethyloxy)ethyl]benzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.13 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC(=C2)OC)CC2=CC=C(C=C2)CCOCOC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C32H40O13
reactant | sodium hydroxide | 2 mol/L, 0.50 mL | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | 5-methoxy-2-{4-[2-(methoxymethyloxy)ethyl]benzyl}phenyl β-D-glucopyranoside | 0.053 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)OC)CC1=CC=C(C=C1)CCOCOC | C24H32O9
